US07723349B2
Step 2. Preparation of tert-butyl(6S,7S)-6-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}amino)carbonyl]-5-azaspiro[2.5]octane-7-carboxylate
4-(2-Methylquinolin-4-ylmethoxy)phenylamine as an HCl salt (94.0 mg, 0.28 mmol) and (6S,7S)-7-(tert-butoxycarbonyl)-5-azaspiro[2.5]octane-6-carboxylic acid (70.0 mg, 0.27 mmol) were dissolved in DMF (2.0 mL). BOP (143.0 mg, 0.32 mmol) was added to the above solution and then cooled to 0° C. Diisopropylethylamine (0.175 mL, 1.0 mmol) was added to the above mixture at 0° C. and then the reaction was stirred at room temperature for 2 h. The mixture was diluted with water, extracted with ethyl acetate, the combined extract was washed with brine, dried and concentrated. The crude tert-butyl(6S,7S)-6-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}amino)carbonyl]-5-azaspiro[2.5]octane-7-carboxylate (140 mg) was used in the next step without purification. ESI (M+H)+502.4.

reactant | 4-(2-Methylquinolin-4-ylmethoxy)phenylamine | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)N | C17H16N2O
reactant | HCl | 0.28 mmol, 94.0 mg | Cl | ClH
reactant | (6S,7S)-7-(tert-butoxycarbonyl)-5-azaspiro[2.5]octane-6-carboxylic acid | 0.27 mmol, 70.0 mg | C(C)(C)(C)OC(=O)[C@@H]1[C@H](NCC2(CC2)C1)C(=O)O | C13H21NO4
reactant | BOP | 0.32 mmol, 143.0 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | Diisopropylethylamine | 1.0 mmol, 0.175 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl(6S,7S)-6-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}amino)carbonyl]-5-azaspiro[2.5]octane-7-carboxylate | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)NC(=O)[C@H]1NCC2(CC2)C[C@@H]1C(=O)OC(C)(C)C | C30H35N3O4
